US09376442B2
N-[(3S*,4S*)-1-Acetyl-4-hydroxypiperidin-3-yl]-4-[2-(cyclopropylmethoxy)-4-fluoro-5-methoxyphenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
Starting from 4-[2-(cyclopropylmethoxy)-4-fluoro-5-methoxyphenyl]-N-[(3S*,4S*)-4-hydroxypiperidin-3-yl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride (example D.f39) and commercially available acetyl chloride the title compound is obtained as colorless solid.

reactant | 4-[2-(cyclopropylmethoxy)-4-fluoro-5-methoxyphenyl]-N-[(3S*,4S*)-4-hydroxypiperidin-3-yl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride | Cl.C1(CC1)COC1=C(C=C(C(=C1)F)OC)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)N[C@H]2CNCC[C@@H]2O
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-[(3S*,4S*)-1-Acetyl-4-hydroxypiperidin-3-yl]-4-[2-(cyclopropylmethoxy)-4-fluoro-5-methoxyphenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C(C)(=O)N1C[C@@H]([C@H](CC1)O)NC(=O)C1=C(NC2=C1N=CN=C2C2=C(C=C(C(=C2)OC)F)OCC2CC2)C | C26H30FN5O5
